US07544704B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrazin-2-ylamine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-amino-6-chloropyrazine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 47 mg, 34%) which was obtained as a brown solid. MS: m/e=277.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-amino-6-chloropyrazine | NC1=NC(=CN=C1)Cl | C4H4ClN3
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-pyrazin-2-ylamine | 47 mg, 34% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=CN=CC(=N1)N | C16H12N4O
